US06586628B2
1-(3-Methoxybenzyl)-3-Dodecyl Thiourea
Dodecyl amine (4.89 g, 26.4 mmol) in 83 ml ethanol at 50° C. was reacted with 3-methoxybenzyl isothiocyanate (3.97 g, 22.1 mmol) for 6 h under N2 with stirring, and then poured into a 250 ml beaker. Performing this reaction at 40° C. led to a precipitate that was difficult to stir. Crystallization began as soon as the reaction started cooling below 50° C. The reaction mixture was cooled to 4° C. and the crystals were filtered off using Whatman 54 filter paper. The crystals were washed with 15 ml of ethanol. Combined filtrates were evaporated to dryness and taken up in 10 ml ethanol. Cooling the solution to −10° C. gave no crystals. The solution was evaporated to dryness and the solids were weighed. Material recovery was 98.7%, and yield of crystals was 7.62 g, or 94.4% of the theoretical yield. Calculated elemental analysis of 1-(3-methoxybenzyl)-3-dodecyl thiourea: C, 69.18; H, 9.95; N, 7.68; S, 8.79. Found: C, 69.65; H, 10.07; N, 7.67; S, 8.80.

reactant | Dodecyl amine | 26.4 mmol, 4.89 g | C(CCCCCCCCCCC)N | C12H27N
reactant | 3-methoxybenzyl isothiocyanate | 22.1 mmol, 3.97 g | COC=1C=C(CN=C=S)C=CC1 | C9H9NOS
solvent | ethanol | 83 ml | C(C)O | C2H6O
product | 1-(3-Methoxybenzyl)-3-Dodecyl Thiourea | COC=1C=C(CNC(=S)NCCCCCCCCCCCC)C=CC1 | C21H36N2OS
